US05272271
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(4,4-dimethyl-2-oxo-1-piperidinyl)-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole
To 654 mg of (+)-7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole dissolved in 10 mL of ethyl acetate were added 337 mg of triethylamine and dropwise added 696 mg of 5-bromo-3,3-dimethylvaleryl chloride at the room temperature over a 10-minute period, followed by stirring at the room temperature for one hour. The reaction mixture was added with 20 ml of saturated aqueous NaCl solution, and extracted twice with ethyl acetate (each 20 mL). After the extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was dissolved in 66 g of dimethylformamide and was dropwise added with 2.7 g of 20% tetraethylammonium hydroxide solution over 20 minutes under ice-cooling. Under ice-cooling, the mixture was reacted for 30 min. and then, the solvent was distilled off under reduced pressure and was added with 20 mL of saturated aqueous NaCl solution and extracted thrice with methylchloride (each 20 mL). After the extract was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure The residue was subjected to a silica gel column chromatography (ethyl acetate:n-hexane=1:1, Rf=0.5) to obtain 598 mg of the intended compound as colorless crystals.

reactant | (+)-7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 654 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | triethylamine | 337 mg | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-3,3-dimethylvaleryl chloride | 696 mg | BrCCC(CC(=O)Cl)(C)C | C7H12BrClO
reactant | NaCl | 20 ml | [Na+].[Cl-]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(4,4-dimethyl-2-oxo-1-piperidinyl)-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 598 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N1C(CC(CC1)(C)C)=O)O)C | C18H23N3O4
